US06645971B1
Preparation of 1-(2-Hydroxyethyl)-3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
In similar way as in Preparation example 3, 1-[2-(tetrahydropyran-2-yl)oxyethyl]-3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone was prepared from 99.4 mg (0.25 mmol) of 3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone and 157 mg (0.75 mmol) of 2-(tetrahydropyran-2-yl)oxyethyl bromide as colorless oil. To a solution of the obtained oil in 4 ml of methanol, 57 mg (0.30 mmol) of p-toluenesulfonic acid monohydrate were added and stirred at room temperature for one hour. The reaction liquid was poured into aqueous saturated sodium bicarbonate solution and extracted with ethyl acetate. It was washed with saturated brine and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate, 1/1 to 1/4) to give 100 mg (0.23 mmol) of the title compound as colorless amorphous.

reactant | 1-[2-(tetrahydropyran-2-yl)oxyethyl]-3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | O1C(CCCC1)OCCN1C(N(C(C2=CC=CC=C12)C1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC=C1)=O | C33H39N3O3
reactant | 3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.25 mmol, 99.4 mg | C(C1=CC=CC=C1)N1CCC(CC1)N1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C26H27N3O
reactant | 2-(tetrahydropyran-2-yl)oxyethyl bromide | 0.75 mmol, 157 mg | O1C(CCCC1)OCCBr | C7H13BrO2
reactant | p-toluenesulfonic acid monohydrate | 0.30 mmol, 57 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | 1-(2-Hydroxyethyl)-3-(1-benzylpiperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.23 mmol, 100 mg | OCCN1C(N(C(C2=CC=CC=C12)C1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC=C1)=O | C28H31N3O2
